US04818273
Preparation of 6-methoxy-2-trifluoromethylbenzoic acid
A solution of 3-trifluoromethylanisol (50.0 g, 0.28 mole) in tetrahydrofuran was cooled to -78° C. under nitrogen atmosphere with stirring. To this solution was added n-butyl lithium (114 ml of 2.5M, 0.28 mole), dropwise at such a rate that the temperature did not exceed -65° C. When the addition was complete, the mixture was stirred at -78° C. for three hours. The mixture was then poured over a slurry of dry ice/ether and allowed to come to room temperature. The solvent was removed under reduced pressure to give a white solid. This solid was dissolved in a minimum amount of water, extracted with diethyl ether (2×100 ml) and the aqueous phase was acidified to pH 2 with dilute hydrochloric acid. An oil formed and was extracted with diethyl ether, washed several times with water and dried over magnesium sulfate. The solvent was removed to give 45.6 g (74 percent of theory) of the title compound as a white solid of m.p. 129°-130° C.

reactant | 3-trifluoromethylanisol | 0.28 mole, 50.0 g | FC(C=1C=C(C=CC1)OC)(F)F | C8H7F3O
reactant | n-butyl lithium | 0.28 mole, 2.5M, 114 ml | C(CCC)[Li]
reactant | dry ice ether | C(=O)=O.CCOCC
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 6-methoxy-2-trifluoromethylbenzoic acid | COC1=CC=CC(=C1C(=O)O)C(F)(F)F | C9H7F3O3
